US07767819B2
4-{4-[Ethyl(1-methyl-2-oxo-2-phenylethyl)carbamoyl]thiazol-2-yl}piperidinium chloride
tert-Butyl 4-{4-[ethyl(1-methyl-2-oxo-2-phenylethyl)carbamoyl]thiazol-2-yl}-piperidine-1-carboxylate (5.5 mmol; 2.59 g) is dissolved in 13.75 ml of a 4M solution of hydrochloric acid in dioxane.

reactant | tert-Butyl 4-{4-[ethyl(1-methyl-2-oxo-2-phenylethyl)carbamoyl]thiazol-2-yl}-piperidine-1-carboxylate | 5.5 mmol, 2.59 g | C(C)N(C(=O)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C)C(C(C1=CC=CC=C1)=O)C | C25H33N3O4S
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-{4-[Ethyl(1-methyl-2-oxo-2-phenylethyl)carbamoyl]thiazol-2-yl}piperidinium chloride | [Cl-].C(C)N(C(=O)C=1N=C(SC1)C1CC[NH2+]CC1)C(C(C1=CC=CC=C1)=O)C | InChI=1S/C20H25N3O2S.ClH/c1-3-23(14(2)18(24)15-7-5-4-6-8-15)20(25)17-13-26-19(22-17)16-9-11-21-12-10-16;/h4-8,13-14,16,21H,3,9-12H2,1-2H3;1H
